US04833169
17.4 ml of n-butyllithium in hexane are added at 0°-5° to a solution of 2.81 g of diisopropylamine in 30 ml of dry tetrahydrofuran. The whole is stirred at room temperature for 30 minutes, is again cooled to -15° and a solution of 6.13 g (25 mmol) of 1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidin-4-one in 30 ml of tetrahydrofuran is added. After 15 minutes, a solution of 3.05 g (28 mmol) of trimethylchlorosilane in 15 ml of tetrahydrofuran is added dropwise. The whole is stirred overnight at room temperature, filtered and concentrated to dryness by evaporation in vacuo. 1-[(5-methoxybenzocyclobuten-1-yl)methyl]-4-trimethylsilyloxy-1,2,5,6-tetrahydro-pyridine is thus obtained in the form of a light-yellow oil.

reactant | n-butyllithium | 17.4 ml | C(CCC)[Li]
reactant | diisopropylamine | 2.81 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidin-4-one | 25 mmol, 6.13 g | COC=1C=CC2=C(C(=C2)CN2CCC(CC2)=O)C1 | C15H17NO2
reactant | trimethylchlorosilane | 28 mmol, 3.05 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[(5-methoxybenzocyclobuten-1-yl)methyl]-4-trimethylsilyloxy-1,2,5,6-tetrahydro-pyridine | COC=1C=CC2=C(C(=C2)CN2CC=C(CC2)O[Si](C)(C)C)C1 | C18H25NO2Si
